US07678783B2
A solution of methyl 2-chloro-3-nitro-5-vinylbenzoate (1.75 g, 7.2 mmol) and SnCl2 (4.1 g, 18.1 mmol) in EtOH (50 mL) was stirred at 75° C. for 16 h. The reaction mixture was cooled to RT, diluted with water and EtOAc, stirred at RT for 10 min, and filtered on cellite. The organic layer was separated, washed with brine, dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography (120 g silica gel, 0 to 25% EtOAc in hexane) to give methyl 2-chloro-3-amino-5-vinylbenzoate as a yellow oil. MS M+1=212.

reactant | methyl 2-chloro-3-nitro-5-vinylbenzoate | 7.2 mmol, 1.75 g | ClC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])C=C | C10H8ClNO4
reactant | SnCl2 | 18.1 mmol, 4.1 g | Cl[Sn]Cl
solvent | EtOH | 50 mL | CCO | C2H6O
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 2-chloro-3-amino-5-vinylbenzoate | ClC1=C(C(=O)OC)C=C(C=C1N)C=C | C10H10ClNO2
